US09085578B2
N-((6-bromopyridin-2-yl)methyl)-N-(2,4-dimethoxybenzyl)formamide
To acetic anhydride (0.703 mL) was added dropwise formic acid (0.349 mL) under ice-cooling, and the mixture was stirred at 55° C. for 45 min. The mixture was allowed to be cooled to room temperature, and tetrahydrofuran (10 mL) was added thereto. A solution of 1-(6-bromopyridin-2-yl)-N-(2,4-dimethoxybenzyl)methanamine obtained in Reference Example 19 (930 mg) in tetrahydrofuran (10 mL) was added dropwise thereto over 3 min under ice-cooling, and the reaction mixture was stirred at room temperature for 30 min. The reaction solution was concentrated under reduced pressure, the obtained colorless oil was subjected to azeotropy with toluene, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (932 mg).

reactant | acetic anhydride | 0.703 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 0.349 mL | C(=O)O | CH2O2
reactant | 1-(6-bromopyridin-2-yl)-N-(2,4-dimethoxybenzyl)methanamine | BrC1=CC=CC(=N1)CNCC1=C(C=C(C=C1)OC)OC | C15H17BrN2O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-((6-bromopyridin-2-yl)methyl)-N-(2,4-dimethoxybenzyl)formamide | 932 mg | BrC1=CC=CC(=N1)CN(C=O)CC1=C(C=C(C=C1)OC)OC | C16H17BrN2O3
